US04056540
b. cis-6-Chloro-2-methylaminomethyl-4-phenyl-1,3-benzodioxan hydrochloride
To a stirred solution, under nitrogen, of 8.0 g (26.4 mmoles) of cis-6-chloro-N-methyl-4-phenyl-1,3-benzodioxan-2-carboxamide was added dropwise, at room temperature, 150 ml (150 mmoles) of diborane (1M as BH3) in THF solution. After addition was complete, the solution was stirred and refluxed for 21 hours.

reactant | cis-6-chloro-N-methyl-4-phenyl-1,3-benzodioxan-2-carboxamide | 26.4 mmoles, 8.0 g | ClC1=CC2=C(O[C@@H](O[C@@H]2C2=CC=CC=C2)C(=O)NC)C=C1 | C16H14ClNO3
reactant | diborane | 150 mmoles, 1M, 150 ml | B#B | B2
solvent | THF | C1CCOC1 | C4H8O
product | cis-6-Chloro-2-methylaminomethyl-4-phenyl-1,3-benzodioxan hydrochloride | Cl.ClC1=CC2=C(O[C@@H](O[C@@H]2C2=CC=CC=C2)CNC)C=C1 | InChI=1S/C16H16ClNO2.ClH/c1-18-10-15-19-14-8-7-12(17)9-13(14)16(20-15)11-5-3-2-4-6-11;/h2-9,15-16,18H,10H2,1H3;1H/t15-,16+;/m0./s1
